US05599522
2,5-Dimercapto-1,4-dihydroxybenzene
Ammonia was condensed (ca 200 ml) into 150 ml of dry diethylether in a 3-necked flask, with external cooling. Then 9.0 g (0.0256 mole) of 2,5-dibenzylmercapto-p-benzoquinone was dissolved into the liquid. Sodium (5.9 g, 0.256 mole) cut into fine pieces was added portionwise with efficient stirring. After stirring for an additional 2.5 hours, abs. ethanol (20 ml) was added and the ammonia was evaporated. Water (170 ml) was added to the reaction product and it was extracted with 2×30 ml of ether. The aqueous phase was then acidified to pH 1-2, with conc. hydrochloric acid, and extracted with 3×80 ml of ether. The ether extracts were collected, dried (Na2SO4), the solvent evaporated leaving a fluffy light brown glistening residue, 4.3 g (90%).

reactant | Ammonia | N | H3N
reactant | diethylether | 150 ml | C(C)OCC | C4H10O
reactant | 2,5-dibenzylmercapto-p-benzoquinone | 0.0256 mole, 9.0 g | C(C1=CC=CC=C1)SC=1C(C=C(C(C1)=O)SCC1=CC=CC=C1)=O | C20H16O2S2
reactant | Sodium | 0.256 mole, 5.9 g | [Na] | Na
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2,5-Dimercapto-1,4-dihydroxybenzene | SC1=C(C=C(C(=C1)O)S)O | C6H6O2S2
